US06255496B1
4-[4-[2-[N-[Bis-(4-chlorophenyl)methyl]-N-methylamino]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone
A solution of 3-[4-[2-[N-[Bis-(4-chlorophenyl)methyl]-N-methylamino]ethoxy]phenyl]-propanoic acid (0.592 g, 1.29 mmol) in dichloromethane (10 ml) was treated at 22° C. with oxalyl chloride (0.25 g, 1.97 mmol) and the resulting mixture was stirred for 1.5 h. The solvent was evaported in vacuo and the crude acid chloride was diluted with toluene (20 ml) and cooled to 0° C. Then trifluoroacetic anhydride (0.81 g, 3.87 mmol) was added followed by pyridine (0.22 g, 2.8 mmol) added dropwise over 10 min. The resulting mixture was then stirred at 22° C. for 2.5 h. The mixture was then cooled to 0° C. and treated dropwise with water (1 ml) and stirred for 15 min. The reaction mixture was then diluted with ethyl acetate, washed with saturated sodium bicarbonate, brine, and dried (magnesium sulfate). Evaporation of the solvent in vacuo and chromatography of the residue on silica gel (elution toluene ethyl acetate, 92:8) gave 0.465 g (70%) of title material as an oil.

reactant | 3-[4-[2-[N-[Bis-(4-chlorophenyl)methyl]-N-methylamino]ethoxy]phenyl]-propanoic acid | 1.29 mmol, 0.592 g | ClC1=CC=C(C=C1)C(N(C)CCOC1=CC=C(C=C1)CCC(=O)O)C1=CC=C(C=C1)Cl | C25H25Cl2NO3
reactant | oxalyl chloride | 1.97 mmol, 0.25 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trifluoroacetic anhydride | 3.87 mmol, 0.81 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 2.8 mmol, 0.22 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1 ml | O | H2O
product | 4-[4-[2-[N-[Bis-(4-chlorophenyl)methyl]-N-methylamino]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 0.465 g, 70% | ClC1=CC=C(C=C1)C(N(C)CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O)C1=CC=C(C=C1)Cl | C26H24Cl2F3NO2
